US07595327B2
tert-Butyl (3S,4R)-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-1-carboxylate
According to the procedure of Example 24, Step 3, 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (0.17 g, 0.30 mmol) and hydroxylamine gave a 7:1 mixture of cis- and trans-tert-Butyl (3S,4R)-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-1-carboxylate as an amorphous white solid (0.025 g, 14.6%) after purification using Biotage Flash 40S chromatography, eluting with 5% methanol in ethyl acetate. Mass Spectrum Found: 571 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 0.30 mmol, 0.17 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C28H33N3O7S
reactant | hydroxylamine | NO | H3NO
product | tert-Butyl (3S,4R)-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]piperidine-1-carboxylate | ONC(=O)[C@H]1CN(CC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C28H34N4O7S
